US03950329
To a solution of 0.322 g of diethylaminosulfur trifluoride in 10 ml of CH2Cl2 at -78° under N2 is added a solution of 1.04 g of benzhydryl-3-hydroxymethyl-7-(2-thienylacetamido)-2-cephem-4-carboxylate in 50 ml of CH2Cl2. The mixture is stirred for 0.5 hour then poured into 100 ml of H2O and the CH2Cl2 layer dried (MgSO4) and evaporated in vacuo. The residue is chromatographed on silica with CHCl3 to give benzhydryl 3-fluoromethyl-7-(2-thienylacetamido)-2-cephem-4-carboxylate, which can be purified by recrystallization from methanol.

reactant | diethylaminosulfur trifluoride | 0.322 g | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | benzhydryl-3-hydroxymethyl-7-(2-thienylacetamido)-2-cephem-4-carboxylate | 1.04 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C1C(=CS[C@H]2N1C(C2NC(CC=2SC=CC2)=O)=O)CO | C27H24N2O5S2
reactant | H2O | 100 ml | O | H2O
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | benzhydryl 3-fluoromethyl-7-(2-thienylacetamido)-2-cephem-4-carboxylate | FCC1=CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C(C2NC(CC=2SC=CC2)=O)=O | C27H23FN2O4S2
